* ptat_3 -- AnalogGym sensing front end DC/temperature bench on TSMC12
* Measurements are the shipped TB_2T_sensor_core set; supply is the TSMC12 rail.
.include ./tsmc12_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.8
Vvdd vdd 0 'supply_voltage'
x0 0 vdd vout ptat_3
c0 vout 0 0.2p

.measure dc vout0   FIND V(vout) AT=0
.measure dc vout25  FIND V(vout) AT=25
.measure dc vout50  FIND V(vout) AT=50
.measure dc vout75  FIND V(vout) AT=75
.measure dc vout100 FIND V(vout) AT=100
.measure dc lsb_25_75C param='(vout75-vout25)/50'
.measure dc maxval MAX V(vout) from=-20 to=120
.measure dc minval MIN V(vout) from=-20 to=120
.measure dc ppval  PP  V(vout) from=-20 to=120
.end
